US09284331B2
Step 6: methyl 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate.
94-6. To a stirred solution of methyl 2-(4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate (320 mg, 1.33 mmol), Boc-glycine (233 mg, 1.33 mmol) and triethylamine (0.37 mL, 2.66 mmol) in AcOEt (7 mL), T3P (0.93 mL, 1.59 mmol, 50% m/m in DMF) was added and the solution was stirred at RT for 16 h. Water was added and the mixture was extracted with AcOEt (2×). The combined organic layers were dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera One, eluent: gradient from 0% AcOEt in cyclohexane to 100% AcOEt in cyclohexane in 21 min) to yield the title compound as a clear oil (510 mg). UPLC-MS: MS 398.1 (M+H+); UPLC rt 0.95 min.

reactant | methyl 2-(4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate | 1.33 mmol, 320 mg | ClC1=CC=NC=2C(NCCC12)CC(=O)OC | C11H13ClN2O2
reactant | Boc-glycine | 1.33 mmol, 233 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | triethylamine | 2.66 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | AcOEt | 7 mL | CCOC(=O)C | C4H8O2
solvent | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate | 510 mg | C(C)(C)(C)OC(=O)NCC(=O)N1CCC=2C(=CC=NC2C1CC(=O)OC)Cl | C18H24ClN3O5
